US08754073B2
50.2 2-methoxy-N-(4-phenylpiperidin-4-ylmethyl)-acetamide (V-12)
1 g tert-butyl 4-[(2-methoxyacetylamino)-methyl]-4-phenylpiperidine-1-carboxylate are placed in 4 ml dichloromethane. Then 1.7 ml trifluoroacetic acid are added and the mixture is stirred overnight at ambient temperature. The reaction mixture is made basic with potassium carbonate and the organic phase is evaporated to dryness. 610 mg (V-12) are obtained as an oil.

reactant | tert-butyl 4-[(2-methoxyacetylamino)-methyl]-4-phenylpiperidine-1-carboxylate | 1 g | COCC(=O)NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H30N2O4
reactant | trifluoroacetic acid | 1.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-methoxy-N-(4-phenylpiperidin-4-ylmethyl)-acetamide | COCC(=O)NCC1(CCNCC1)C1=CC=CC=C1 | C15H22N2O2
